US08217064B2
To a solution of the 2-[6-chloro-5-(2,2,2-trifluoro-ethoxy)-4′-trifluoromethyl-biphenyl-3-yl]-3-cyclobutyl-propionic acid methyl ester (8.0 g, 14.5 mmol) in a mixture of the EtOH (100 mL) and H2O (15 mL) was added potassium hydroxide (10 g, 178.5 mmol). The reaction mixture was refluxed for 3 h and the solvent evaporated. Then, 6 N HCl was added to adjust the pH to 3-5 and the mixture was extracted with EtOAc (3×50 mL). The combined organic phases were dried over MgSO4 and evaporated to give 2-[6-chloro-5-(2,2,2-trifluoro-ethoxy)-4′-trifluoromethyl-biphenyl-3-yl]-3-cyclobutyl-propionic acid as a white solid (7.0 g, 90%). 1H NMR (300 MHz, CDCl3/TMS): δ 7.70 (d, J=8.2 Hz, 2H), 7.53 (d, J=8.2 Hz, 2H), 6.98 (s, 2H), 4.47 (q, J=8.0 Hz, 2H), 3.49 (t, J=7.7 Hz, 1H), 2.27-2.13 (m, 2H), 2.06-1.73 (m, 5H), 1.71-1.52 (m, 2H). 13C NMR (75 MHz, CDCl3/TMS): δ 179.1, 153.6, 142.1, 141.2, 138.0, 129.7, 125.0 (q, 3JCF=3.6 Hz), 124.9, 124.0 (q, 1JCF=262.5 Hz), 123.0 (q, 1JCF=277.6 Hz), 121.8, 114.3, 67.3 (q, 1JCF=36.0 Hz), 49.3, 40.3, 33.9, 28.3, 28.0, 18.5.

reactant | 2-[6-chloro-5-(2,2,2-trifluoro-ethoxy)-4′-trifluoromethyl-biphenyl-3-yl]-3-cyclobutyl-propionic acid methyl ester | 14.5 mmol, 8.0 g | COC(C(CC1CCC1)C=1C=C(C(=C(C1)OCC(F)(F)F)Cl)C1=CC=C(C=C1)C(F)(F)F)=O | C23H21ClF6O3
reactant | EtOH | 100 mL | CCO | C2H6O
reactant | potassium hydroxide | 178.5 mmol, 10 g | [OH-].[K+]
solvent | H2O | 15 mL | O | H2O
product | 2-[6-chloro-5-(2,2,2-trifluoro-ethoxy)-4′-trifluoromethyl-biphenyl-3-yl]-3-cyclobutyl-propionic acid | 7.0 g, 90% | ClC1=C(C=C(C=C1C1=CC=C(C=C1)C(F)(F)F)C(C(=O)O)CC1CCC1)OCC(F)(F)F | C22H19ClF6O3
